US04528311
Preparation of 2-(2'-Hydroxy-5'-methyacrylyloxypropyl-3'-tert-butylphenyl)-5-chloro-2H-benzotriazole
Methacrylyl chloride (5.9 ml) and triethylamine (8.5 ml) were added dropwise at -5° C. to a solution of 2-(2'-hydroxy-5'-hydroxypropyl-3'-tert-butylphenyl)-5-chloro-2H-benzotriazole (20 g) in 250 ml of methylene chloride. The reaction mixture was stirred at 0° C. overnight and then washed with 1N hydrochloric acid and water. The methylene chloride solution of the product was dried with sodium sulfate, passed through alumina column and evaporated. The crude yield of the product was 22 g (90%). A polymerization grade sample was obtained by recrystallization from methanol--methylene chloride mixture, m.p. 74.5°-76.5° C.

reactant | Methacrylyl chloride | 5.9 ml | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | triethylamine | 8.5 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(2'-hydroxy-5'-hydroxypropyl-3'-tert-butylphenyl)-5-chloro-2H-benzotriazole | 20 g | OC1=C(C=C(C=C1C(C)(C)C)CCCO)N1N=C2C(=N1)C=CC(=C2)Cl | C19H22ClN3O2
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 2-(2'-Hydroxy-5'-methyacrylyloxypropyl-3'-tert-butylphenyl)-5-chloro-2H-benzotriazole | OC1=C(C=C(C=C1C(C)(C)C)CCCOC(C=CC)=O)N1N=C2C(=N1)C=CC(=C2)Cl | C23H26ClN3O3
